US04018893
step D: 2-Aminomethyl-5-chloro-7-iodo-3-phenylbenzo[b]furan
Add 150 ml. of a 1M solution of borane in tetrahydrofuran to 15.0 g. (0.038 mole) of 5-chloro-7-iodo-3-phenylbenzo[b]furan-2-carboxamide in 130 ml. of tetrahydrofuran and boil under reflux for 16 hours. Treat the solution with 8 ml. of 5% hydrochloric acid and reflux for 45 minutes more. Cool and make basic with sodium hydroxide solution.

reactant | borane | B | BH3
reactant | 5-chloro-7-iodo-3-phenylbenzo[b]furan-2-carboxamide | 0.038 mole | ClC1=CC2=C(OC(=C2C2=CC=CC=C2)C(=O)N)C(=C1)I | C15H9ClINO2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Aminomethyl-5-chloro-7-iodo-3-phenylbenzo[b]furan | NCC1=C(C2=C(O1)C(=CC(=C2)Cl)I)C2=CC=CC=C2 | C15H11ClINO
